* Scoring line transient model. Architecture validation only.
VREF vref 0 2.5
RSOURCE vref drive {{SOURCE_OHMS}}
RSWITCH drive protected {{SWITCH_OHMS}}
RPROTECTION protected line {{PROTECTION_OHMS}}
CLINE line 0 {{LINE_CAPACITANCE}}
RADC line adc {{ADC_SERIES_OHMS}}
CADC adc 0 {{ADC_CAPACITANCE}}
VCONTROL control 0 PULSE(0 3.3 10u 10n 10n {{CONTACT_WIDTH}} 40u)
SCONTACT line 0 control 0 CONTACT
.model CONTACT SW(Ron={{LOAD_OHMS}} Roff=1e9 Vt=1.65 Vh=0.1)
.tran 0.05u {{STOP_TIME}}
.measure tran t_cross WHEN v(adc)=0.42 FALL=1
.measure tran v_contact FIND v(adc) AT={{CONTACT_SAMPLE_TIME}}
.end
